US06489476B1
A solution of diethyl 4-(tert-butyldiphenylsilyloxy)-3-phenoxythiocarbonyloxy-2,2-difluorobutylphosphonate (1 mmole) in toluene (1 mL) was treated with tri-n-butyltin hydride (1.5 mmole) and AIBN (0.1 mmole), and the resulting reaction mixture was heated to reflux for 2 h. Evaporation and chromatography gave diethyl 4-(tert-butyldiphenylsilyloxy)-2,2-difluorobutylphosphonate as a clear oil.

reactant | diethyl 4-(tert-butyldiphenylsilyloxy)-3-phenoxythiocarbonyloxy-2,2-difluorobutylphosphonate | 1 mmole | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C(CP(OCC)(OCC)=O)(F)F)OC(=S)OC1=CC=CC=C1 | C31H39F2O6PSSi
reactant | tri-n-butyltin hydride | 1.5 mmole | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | 0.1 mmole | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl 4-(tert-butyldiphenylsilyloxy)-2,2-difluorobutylphosphonate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CP(OCC)(OCC)=O)(F)F | C24H35F2O4PSi
